US08791132B2
To a solution of 3-(3,4-dihydro-8-methyl-1H-pyrido[4,3-b]indol-2(5H)-yl)propan-1-ol (1000 mg, 4.0983 mmol) in DMF (10 mL) was portionwise added sodium hydride (491.8 mg, 12.25 mmol). After stirring at RT for 5 min, 4-(oxiran-2-yl)pyridine (620 mg, 4.92 mmol) was added dropwise into the reaction mixture, which was stirred at RT overnight. Ice water was added into the reaction mixture and the solid mass filtered, washed with water (2×10 mL) and hexane (2×50 mL). The residue was purified by reverse phase HPLC to yield 3-(3,4-dihydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-8-methyl-1H-pyrido[4,3-b]indol-2(5H)-yl)propan-1-ol. 1H NMR (CD3OD, formate salt) δ (ppm): 8.43 (bs, 2H), 7.39 (d, 2H), 7.23 (s, 1H), 7.2 (d, 1H), 7.0 (d, 1H), 5.07 (t, 1H), 4.48 (bs, 2H), 4.23 (m, 2H), 3.7 (t, 2H), 3.6 (bs, 2H), 3.4 (t, 2H), 3.2 (m, 1H), 2.95-3.03 (m, 1H), 2.4 (s, 3H), 2.03 (bs, 2H). Separation by chiral HPLC provides enantiomers II-75a-b.

reactant | 3-(3,4-dihydro-8-methyl-1H-pyrido[4,3-b]indol-2(5H)-yl)propan-1-ol | 4.0983 mmol, 1000 mg | CC1=CC=2C3=C(NC2C=C1)CCN(C3)CCCO | C15H20N2O
reactant | sodium hydride | 12.25 mmol, 491.8 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 4.92 mmol, 620 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(3,4-dihydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-8-methyl-1H-pyrido[4,3-b]indol-2(5H)-yl)propan-1-ol | OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)CCCO)C2=CC=NC=C2 | C22H27N3O2
